US05571813
Preparation of N-((2-(2-Cyanophenyl)benzofuran-5-yl)methyl)-N-methyl amine
5.3 g (17.0 mmol) 5-(bromomethyl)-2-(2-cyanophenyl)benzofuran (prepared according to EP 434 249) were dissolved in 100 ml THF, and 25 ml of a 40% aqueous solution of methylamine were added via a dropping funnel. The mixture was stirred at room temperature over night. 2×15 ml of the solution of methylamine were added, and the mixture was stirred for additional 5 h in each case. The work-up and the isolation of the title compound was carried out as described in Step A of the preceding example to give a colorless powder after crystallization of the remaining oil upon stirring with t-butylmethylether, m.p. 180° C.

reactant | 5-(bromomethyl)-2-(2-cyanophenyl)benzofuran | 17.0 mmol, 5.3 g | BrCC=1C=CC2=C(C=C(O2)C2=C(C=CC=C2)C#N)C1 | C16H10BrNO
reactant | methylamine | CN | CH5N
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-((2-(2-Cyanophenyl)benzofuran-5-yl)methyl)-N-methyl amine | C(#N)C1=C(C=CC=C1)C=1OC2=C(C1)C=C(C=C2)CNC | C17H14N2O
